US07750161B2
C1.2. 2,6-Dimethyl-pyridin-4-ylamine
2,6-Dimethyl-4-nitro-pyridine 1-oxide (9.62 g, 57 mmol) is dissolved in AcOH (300 mL) and Fe (powder, 29 g) is added. The mixture is stirred for 1 h at 100° C. The mixture is cooled to r.t. and filtered. The filtercake is thoroughly washed with AcOH and then discarded. The filtrate is evaporated, diluted with water (100 mL), basified with NaOH (1 M, 100 mL), filtered from the formed precipitate and the filtrate is extracted with CHCl3 (10×50 mL). The combined organic extracts are dried (Na2SO4), filtered and evaporated. The residue is crystallized from heptane-CHCl3 to provide the title compound.

reactant | 2,6-Dimethyl-4-nitro-pyridine 1-oxide | 57 mmol, 9.62 g | CC1=[N+](C(=CC(=C1)[N+](=O)[O-])C)[O-] | C7H8N2O3
solvent | AcOH | 300 mL | CC(=O)O | C2H4O2
catalyst | Fe | 29 g | [Fe] | Fe
product | 2,6-Dimethyl-pyridin-4-ylamine | CC1=NC(=CC(=C1)N)C | C7H10N2
